US08633173B2
5-{4-[(1,1-dioxidothiomorpholin-4-yl)methyl]phenyl}-N-[4-(4-methylpiperazin-1-yl)phenyl][1,2,4]triazolo[1,5-a]pyridin-2-amine was prepared from 5-{4-[(1,1-dioxidothiomorpholin-4-yl)methyl]phenyl}[1,2,4]triazolo[1,5-a]pyridin-2-amine (75.0 mg, 0.210 mmol) and 1-(4-bromo-phenyl)-4-methyl-piperazine (65.0 mg, 0.255 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (22.0 mg, 0.0402 mmol) as the ligand in a manner analogous to Step 2d. The title compound was isolated as a yellow foam (0.045 g, 40%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.00 (d, J=7.0 Hz, 2H), 7.52-7.43 (m, 6H), 6.98-6.91 (m, 3H), 6.67 (s, 1H), 3.76 (s, 2H), 3.18-3.03 (m, 12H), 2.62-2.56 (m, 4H), 2.36 (s, 3H). MS=532 (MH)+.

reactant | 5-{4-[(1,1-dioxidothiomorpholin-4-yl)methyl]phenyl}[1,2,4]triazolo[1,5-a]pyridin-2-amine | 0.210 mmol, 75.0 mg | O=S1(CCN(CC1)CC1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)N)=O | C17H19N5O2S
reactant | 1-(4-bromo-phenyl)-4-methyl-piperazine | 0.255 mmol, 65.0 mg | BrC1=CC=C(C=C1)N1CCN(CC1)C | C11H15BrN2
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0402 mmol, 22.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | 5-{4-[(1,1-dioxidothiomorpholin-4-yl)methyl]phenyl}-N-[4-(4-methylpiperazin-1-yl)phenyl][1,2,4]triazolo[1,5-a]pyridin-2-amine | O=S1(CCN(CC1)CC1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)N2CCN(CC2)C)=O | C28H33N7O2S
